US04315009
A mixture of 2-guanidino-4-(3-aminophenyl)-thiazole hydrochloride hydrobromide (1.2 g.) and benzoylcyanamide (0.7 g.) in dimethylformamide (15 ml.) and water (10 ml.) was heated at 90° C. for 2 hours. The mixture was diluted with water (30 ml.) and made strongly basic with dilute sodium hydroxide solution. The mixture was extracted with ethyl acetate (2×50 ml.) and the extract evaporated to dryness to give 2-guanidino-4-[3-(2-benzoylguanidino)phenyl]-thiazole as a dark gum (0.9 g.)

reactant | 2-guanidino-4-(3-aminophenyl)-thiazole hydrochloride hydrobromide | 1.2 g | Br.Cl.N(C(=N)N)C=1SC=C(N1)C1=CC(=CC=C1)N
reactant | benzoylcyanamide | 0.7 g | C(C1=CC=CC=C1)(=O)NC#N | C8H6N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
solvent | water | 30 ml | O | H2O
product | 2-guanidino-4-[3-(2-benzoylguanidino)phenyl]-thiazole | N(C(=N)N)C=1SC=C(N1)C1=CC(=CC=C1)NC(=NC(C1=CC=CC=C1)=O)N | C18H17N7OS
